US06884801B1
(2-Amino-4-methylphenyl)(1-pyrrolidinyl)methanone (prepared from pyrrolidine and 7-methyl-2H-3,1-benzoxazine-2,4(1H)-dione using the methods described in Example 17) and CMI were reacted using conditions described in the general procedure for CMI coupling to give {2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-4-methylphenyl}(1-pyrrolidinyl)methanone.

reactant | (2-Amino-4-methylphenyl)(1-pyrrolidinyl)methanone | NC1=C(C=CC(=C1)C)C(=O)N1CCCC1 | C12H16N2O
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | 7-methyl-2H-3,1-benzoxazine-2,4(1H)-dione | CC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C9H7NO3
product | {2-[(4,5-dihydro-1H-imidazol-2-ylmethyl)amino]-4-methylphenyl}(1-pyrrolidinyl)methanone | N1C(=NCC1)CNC1=C(C=CC(=C1)C)C(=O)N1CCCC1 | C16H22N4O
